** Name: SimpleOpAmp129

.MACRO SimpleOpAmp129 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=8e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=5e-6 W=12e-6
mDiodeTransistorPmos3 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 sourcePmos sourcePmos pmos4 L=7e-6 W=12e-6
mNormalTransistorNmos4 out outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=18e-6
mNormalTransistorNmos5 FirstStageYout1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=18e-6
mNormalTransistorPmos6 out FirstStageYout1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=3e-6 W=5e-6
mNormalTransistorPmos7 out in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=271e-6
mNormalTransistorPmos8 outVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=5e-6 W=65e-6
mNormalTransistorPmos9 FirstStageYout1 FirstStageYinnerTransistorStack2Load1 sourcePmos sourcePmos pmos4 L=7e-6 W=12e-6
mNormalTransistorPmos10 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=271e-6
mNormalTransistorPmos11 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=5e-6 W=258e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp129

** Expected Performance Values: 
** Gain: 47 dB
** Power consumption: 1.62601 mW
** Area: 2620 (mu_m)^2
** Transit frequency: 23 MHz
** Transit frequency with error factor: 23.0002 MHz
** Slew rate: 21.735 V/mu_s
** Phase margin: 64.7443°
** CMRR: 70 dB
** VoutMax: 3 V
** VoutMin: 0.640001 V
** VcmMax: 3.80001 V
** VcmMin: 0.0700001 V


** Expected Currents: 
** NormalTransistorPmos: -54.5859 muA
** NormalTransistorPmos: -15.7259 muA
** NormalTransistorPmos: -15.7249 muA
** DiodeTransistorPmos: -15.7259 muA
** NormalTransistorNmos: 125.271 muA
** NormalTransistorNmos: 125.271 muA
** NormalTransistorPmos: -219.088 muA
** NormalTransistorPmos: -109.544 muA
** NormalTransistorPmos: -109.544 muA
** DiodeTransistorNmos: 54.5851 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.95101  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outVoltageBiasXXnXX1: 1.04301  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load1: 3.72301  V
** out1: 2.43601  V
** sourceTransconductance: 3.21401  V


.END