** Name: SimpleOpAmp45

.MACRO SimpleOpAmp45 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=8e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=21e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=8e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=310e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=53e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=24e-6
mNormalTransistorNmos8 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=4e-6 W=115e-6
mNormalTransistorNmos9 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=4e-6 W=115e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=600e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=600e-6
mNormalTransistorPmos12 out inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=2e-6 W=157e-6
mNormalTransistorPmos13 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=310e-6
mNormalTransistorPmos14 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=288e-6
mNormalTransistorPmos15 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=288e-6
mNormalTransistorPmos16 FirstStageYsourceTransconductance inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=165e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp45

** Expected Performance Values: 
** Gain: 86 dB
** Power consumption: 3.12001 mW
** Area: 8010 (mu_m)^2
** Transit frequency: 24.8911 MHz
** Transit frequency with error factor: 24.8909 MHz
** Slew rate: 20.3193 V/mu_s
** Phase margin: 74.4846°
** CMRR: 141 dB
** VoutMax: 4.48001 V
** VoutMin: 0.820001 V
** VcmMax: 3.88001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 25.3821 muA
** NormalTransistorNmos: 11.5431 muA
** NormalTransistorNmos: 168.338 muA
** NormalTransistorNmos: 288.58 muA
** NormalTransistorNmos: 168.335 muA
** NormalTransistorNmos: 288.575 muA
** DiodeTransistorPmos: -168.335 muA
** NormalTransistorPmos: -168.334 muA
** NormalTransistorPmos: -168.335 muA
** NormalTransistorPmos: -240.482 muA
** NormalTransistorPmos: -120.24 muA
** NormalTransistorPmos: -120.24 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 10.0001 muA
** DiodeTransistorPmos: -25.3829 muA
** DiodeTransistorPmos: -11.5439 muA


** Expected Voltages: 
** ibias: 1.20201  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** inputVoltageBiasXXpXX2: 4.03301  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load2: 4.59501  V
** out1: 4.26101  V
** sourceGCC1: 0.533001  V
** sourceGCC2: 0.533001  V
** sourceTransconductance: 3.21701  V


.END