** Name: SimpleOpAmp47

.MACRO SimpleOpAmp47 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=35e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=4e-6 W=11e-6
mNormalTransistorNmos5 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=359e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=7e-6
mNormalTransistorNmos7 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=180e-6
mNormalTransistorNmos8 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=180e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=292e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=292e-6
mNormalTransistorPmos11 out inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=1e-6 W=136e-6
mNormalTransistorPmos12 FirstStageYinnerSourceLoad2 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=1e-6 W=136e-6
mNormalTransistorPmos13 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=450e-6
mNormalTransistorPmos14 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=450e-6
mNormalTransistorPmos15 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=281e-6
mNormalTransistorPmos16 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=281e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=4e-6 W=367e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp47

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 4.72601 mW
** Area: 6831 (mu_m)^2
** Transit frequency: 24.0181 MHz
** Transit frequency with error factor: 24.018 MHz
** Slew rate: 19.9295 V/mu_s
** Phase margin: 83.0789°
** CMRR: 144 dB
** VoutMax: 4.53001 V
** VoutMin: 0.710001 V
** VcmMax: 3.91001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 355.369 muA
** NormalTransistorNmos: 7.00501 muA
** NormalTransistorNmos: 171.418 muA
** NormalTransistorNmos: 286.447 muA
** NormalTransistorNmos: 171.418 muA
** NormalTransistorNmos: 286.447 muA
** NormalTransistorPmos: -171.417 muA
** NormalTransistorPmos: -171.418 muA
** NormalTransistorPmos: -171.417 muA
** NormalTransistorPmos: -171.418 muA
** NormalTransistorPmos: -230.06 muA
** NormalTransistorPmos: -115.029 muA
** NormalTransistorPmos: -115.029 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -355.368 muA
** DiodeTransistorPmos: -7.00599 muA


** Expected Voltages: 
** ibias: 1.18001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** inputVoltageBiasXXpXX2: 4.06001  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.22901  V
** innerTransistorStack1Load2: 4.51501  V
** innerTransistorStack2Load2: 4.51501  V
** sourceGCC1: 0.625  V
** sourceGCC2: 0.625  V
** sourceTransconductance: 3.21501  V


.END