** Name: SimpleOpAmp55

.MACRO SimpleOpAmp55 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=5e-6 W=19e-6
mDiodeTransistorNmos2 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=2e-6 W=72e-6
mDiodeTransistorNmos3 FirstStageYinnerOutputLoad2 FirstStageYinnerOutputLoad2 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=2e-6 W=72e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=11e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=14e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=5e-6 W=74e-6
mNormalTransistorNmos7 out FirstStageYinnerOutputLoad2 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=2e-6 W=72e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=2e-6 W=72e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=125e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=125e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=5e-6 W=461e-6
mNormalTransistorPmos12 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=450e-6
mNormalTransistorPmos13 FirstStageYinnerOutputLoad2 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=450e-6
mNormalTransistorPmos14 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=111e-6
mNormalTransistorPmos15 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=111e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp55

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 3.26901 mW
** Area: 4993 (mu_m)^2
** Transit frequency: 25.0131 MHz
** Transit frequency with error factor: 25.0134 MHz
** Slew rate: 20.8433 V/mu_s
** Phase margin: 81.3601°
** CMRR: 143 dB
** VoutMax: 3.89001 V
** VoutMin: 0.890001 V
** VcmMax: 5.01001 V
** VcmMin: 0.730001 V


** Expected Currents: 
** NormalTransistorNmos: 38.8311 muA
** NormalTransistorPmos: -182.76 muA
** NormalTransistorPmos: -302.444 muA
** NormalTransistorPmos: -182.76 muA
** NormalTransistorPmos: -302.444 muA
** DiodeTransistorNmos: 182.761 muA
** NormalTransistorNmos: 182.76 muA
** NormalTransistorNmos: 182.761 muA
** DiodeTransistorNmos: 182.76 muA
** NormalTransistorNmos: 239.367 muA
** NormalTransistorNmos: 119.684 muA
** NormalTransistorNmos: 119.684 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -38.8319 muA
** DiodeTransistorPmos: -38.8309 muA


** Expected Voltages: 
** ibias: 0.581001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 4.04401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerOutputLoad2: 1.29801  V
** innerSourceLoad2: 0.649001  V
** innerTransistorStack1Load2: 0.647001  V
** sourceGCC1: 3.75  V
** sourceGCC2: 3.75  V
** sourceTransconductance: 1.94401  V


.END