** Name: SimpleOpAmp73

.MACRO SimpleOpAmp73 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=12e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=4e-6 W=125e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=109e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=45e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=311e-6
mNormalTransistorNmos7 out FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=3e-6 W=115e-6
mNormalTransistorNmos8 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=555e-6
mNormalTransistorNmos9 FirstStageYout1 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=4e-6 W=125e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=286e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=286e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=581e-6
mNormalTransistorPmos13 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos14 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos15 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=97e-6
mNormalTransistorPmos16 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=97e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp73

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 5.53401 mW
** Area: 9031 (mu_m)^2
** Transit frequency: 38.1721 MHz
** Transit frequency with error factor: 38.1719 MHz
** Slew rate: 30.9174 V/mu_s
** Phase margin: 77.3494°
** CMRR: 141 dB
** VoutMax: 3.77001 V
** VoutMin: 1 V
** VcmMax: 4.90001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 207.498 muA
** NormalTransistorPmos: -260.196 muA
** NormalTransistorPmos: -444.628 muA
** NormalTransistorPmos: -260.196 muA
** NormalTransistorPmos: -444.628 muA
** NormalTransistorNmos: 260.197 muA
** NormalTransistorNmos: 260.197 muA
** DiodeTransistorNmos: 260.197 muA
** NormalTransistorNmos: 368.864 muA
** NormalTransistorNmos: 368.863 muA
** NormalTransistorNmos: 184.432 muA
** NormalTransistorNmos: 184.432 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -207.497 muA
** DiodeTransistorPmos: -207.498 muA


** Expected Voltages: 
** ibias: 1.13401  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** outSourceVoltageBiasXXpXX1: 3.92801  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.718001  V
** innerStageBias: 0.579001  V
** out1: 1.40501  V
** sourceGCC1: 3.75501  V
** sourceGCC2: 3.75501  V
** sourceTransconductance: 1.94401  V


.END