** Name: SimpleOpAmp75

.MACRO SimpleOpAmp75 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=15e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=7e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=3e-6 W=179e-6
mDiodeTransistorPmos4 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=15e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=7e-6 W=399e-6
mNormalTransistorNmos7 FirstStageYinnerStageBias inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=108e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=3e-6 W=179e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=235e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=235e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=7e-6 W=272e-6
mNormalTransistorPmos12 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=256e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=31e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=33e-6
mNormalTransistorPmos15 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=256e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=341e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=341e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp75

** Expected Performance Values: 
** Gain: 85 dB
** Power consumption: 3.88201 mW
** Area: 9106 (mu_m)^2
** Transit frequency: 23.7421 MHz
** Transit frequency with error factor: 23.7422 MHz
** Slew rate: 22.7087 V/mu_s
** Phase margin: 84.2249°
** CMRR: 142 dB
** VoutMax: 3.98001 V
** VoutMin: 0.430001 V
** VcmMax: 5.17001 V
** VcmMin: 1.39001 V


** Expected Currents: 
** NormalTransistorPmos: -33.4569 muA
** NormalTransistorPmos: -31.4299 muA
** NormalTransistorPmos: -230.488 muA
** NormalTransistorPmos: -345.731 muA
** NormalTransistorPmos: -230.488 muA
** NormalTransistorPmos: -345.731 muA
** DiodeTransistorNmos: 230.489 muA
** NormalTransistorNmos: 230.489 muA
** NormalTransistorNmos: 230.489 muA
** NormalTransistorNmos: 230.488 muA
** NormalTransistorNmos: 230.487 muA
** NormalTransistorNmos: 115.245 muA
** NormalTransistorNmos: 115.245 muA
** DiodeTransistorNmos: 33.4561 muA
** DiodeTransistorNmos: 31.4291 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.44101  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX2: 0.563001  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 4.19901  V
** outVoltageBiasXXnXX1: 1.03601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.365001  V
** innerTransistorStack2Load2: 0.413001  V
** out1: 0.618001  V
** sourceGCC1: 4.22901  V
** sourceGCC2: 4.22901  V
** sourceTransconductance: 1.94301  V


.END