** Name: SimpleOpAmp79

.MACRO SimpleOpAmp79 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=8e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=15e-6
mDiodeTransistorPmos3 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=19e-6
mDiodeTransistorPmos4 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos5 out outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=5e-6 W=515e-6
mNormalTransistorNmos6 FirstStageYinnerStageBias outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=129e-6
mNormalTransistorNmos7 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=35e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=35e-6
mNormalTransistorNmos9 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=5e-6 W=515e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=253e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=253e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=5e-6 W=162e-6
mNormalTransistorPmos13 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=481e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=75e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=39e-6
mNormalTransistorPmos16 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=481e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=506e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=506e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp79

** Expected Performance Values: 
** Gain: 85 dB
** Power consumption: 5.80801 mW
** Area: 9849 (mu_m)^2
** Transit frequency: 34.3801 MHz
** Transit frequency with error factor: 34.3804 MHz
** Slew rate: 33.4336 V/mu_s
** Phase margin: 80.7871°
** CMRR: 139 dB
** VoutMax: 4 V
** VoutMin: 0.540001 V
** VcmMax: 5.17001 V
** VcmMin: 1.5 V


** Expected Currents: 
** NormalTransistorPmos: -76.0399 muA
** NormalTransistorPmos: -39.5409 muA
** NormalTransistorPmos: -342.012 muA
** NormalTransistorPmos: -513.017 muA
** NormalTransistorPmos: -342.016 muA
** NormalTransistorPmos: -513.021 muA
** NormalTransistorNmos: 342.015 muA
** NormalTransistorNmos: 342.016 muA
** NormalTransistorNmos: 342.017 muA
** NormalTransistorNmos: 342.016 muA
** NormalTransistorNmos: 342.012 muA
** NormalTransistorNmos: 342.011 muA
** NormalTransistorNmos: 171.007 muA
** NormalTransistorNmos: 171.007 muA
** DiodeTransistorNmos: 76.0391 muA
** DiodeTransistorNmos: 39.5401 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.46301  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 4.19901  V
** outVoltageBiasXXnXX1: 1.15101  V
** outVoltageBiasXXnXX2: 0.582001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.392001  V
** innerTransistorStack1Load2: 0.547001  V
** innerTransistorStack2Load2: 0.547001  V
** out1: 0.746001  V
** sourceGCC1: 4.22601  V
** sourceGCC2: 4.22601  V
** sourceTransconductance: 1.94001  V


.END